US06235731B1
3) Synthesis of N-(4-piperidyl)methyl-3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydro-chloride
To a solution of 480 g (1.15 mM) of N-[(1-tert-butoxycarbonyl-4-piperidyl)methyl]-3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in 20 ml of 2-propanol was added 0.47 ml (5.76 mM) of 12N-hydrochloric acid and the mixture was stirred at room temperature for 1 hours. This reaction mixture was concentrated under reduced pressure and the resulting crystals were collected by filtration and rinsed with a small amount of ether to provide 404 mg (90.2%) of the title compound as white crystals.

reactant | N-[(1-tert-butoxycarbonyl-4-piperidyl)methyl]-3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 1.15 mM, 480 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(=O)C1CC2=CN=C3C=CC=C(S1)N32 | C21H28N4O3S
reactant | hydrochloric acid | Cl | ClH
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | N-(4-piperidyl)methyl-3,4-dihydro-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydro-chloride | 404 mg, 90.2% | Cl.Cl.N1CCC(CC1)CNC(=O)C1CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C16H20N4OS.2ClH/c21-16(19-9-11-4-6-17-7-5-11)13-8-12-10-18-14-2-1-3-15(22-13)20(12)14;;/h1-3,10-11,13,17H,4-9H2,(H,19,21);2*1H
